US07582657B2
(c) 4-[4-(tert-Butyl)phenyl]-2-bromopyridine
To triphenylphosphine (Aldrich) (2.4 g, 9.1 mmol) dissolved in 10 mL of CH2Cl2 in a 50-mL round-bottomed flask was added bromine (Aldrich) (0.43 mL, 8.5 mmol). After stirring at 0° C. for 10 min, 4-[4-(tert-butyl)phenyl]pyridine 1-oxide (1.5 g, 6.5 mmol) was added dropwise, followed by Et3N (1.2 mL, 8.5 mmol). The reaction mixture was stirred at 0° C. for 1 h and then at room temperature overnight. Methylene chloride and brine were added, and the aqueous layer was extracted with CH2Cl2. The organic layer was collected and dried over Na2SO4, filtered and concentrated in vacuo. Following purification by silica gel chromatography (10:1 hexane:EtOAc), the title compound was obtained as a pale yellow oil. MS (ESI, pos. ion) m/z: 293 (M+1).

reactant | triphenylphosphine | 9.1 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 8.5 mmol, 0.43 mL | BrBr | Br2
reactant | 4-[4-(tert-butyl)phenyl]pyridine 1-oxide | 6.5 mmol, 1.5 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-] | C15H17NO
reactant | Et3N | 8.5 mmol, 1.2 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 4-[4-(tert-Butyl)phenyl]-2-bromopyridine | C(C)(C)(C)C1=CC=C(C=C1)C1=CC(=NC=C1)Br | C15H16BrN
